US08247401B2
Step A: 2-methyl-N-{(1E)-[6-(trifluoromethyl)-3-pyridinyl]methylene}-2-propanesulfinamide
To a solution of 6-(trifluoromethyl)nicotinaldehyde (45.0 g, 257 mmol) in dichloroethane (640 mL) were added (5)-(−)-2-methyl-2-propanesulfinamide (34.3 g, 283 mmol) and anhydrous copper(II) sulfate (82 g, 514 mmol). The mixture was stirred at 50° C. After 48 h, the mixture cooled to ambient temperature. The reaction mixture was filtered through Celite. The filtered cake was washed with dichloromethane and the filtrate was concentrated to give the title compound (76.8 g). MS 223.1 (M-tert-butyl+1)

reactant | 6-(trifluoromethyl)nicotinaldehyde | 257 mmol, 45.0 g | FC(C1=NC=C(C=O)C=C1)(F)F | C7H4F3NO
reactant | (5)-(−)-2-methyl-2-propanesulfinamide | 283 mmol, 34.3 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | dichloroethane | 640 mL | ClC(C)Cl | C2H4Cl2
catalyst | copper(II) sulfate | 514 mmol, 82 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-methyl-N-{(1E)-[6-(trifluoromethyl)-3-pyridinyl]methylene}-2-propanesulfinamide | 76.8 g | CC(C)(C)S(=O)/N=C/C=1C=NC(=CC1)C(F)(F)F | C11H13F3N2OS
